US04902684
A. (cis)-1,3,4,5-tetrahydro-3-hydroxy-7-methylsulfinyl-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one
A solution of (cis)-1,3,4,5-Tetrahydro-3-hydroxy-7-methylthio-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one (1.0 g, 3.04 mmol) in dry methylene chloride (30 ml) at 5° C. was treated with m-chloroperoxybenzoic acid (0.615 g, 3.04 mmol). After 30 minutes, the reaction was complete and the reaction mixture was diluted with ethyl acetate, washed with saturated sodium hydrogen carbonate, water, and brine. The organic layer was filtered and concentrated in vacuo to give a solid residue (1.02×g). Trituration with hot ethyl acetate, cooling and filtration afforded the product (600 mg), m.p. 214°14 216° C. The mother liquors were concentrated in vacuo and chromatographed on LPS-1 silica (methylene chloride/methanol). The product fractions were combined and concentrated in vacuo, and the residue crystallized from ethyl acetate to give an additional 200 mg of product.

reactant | (cis)-1,3,4,5-Tetrahydro-3-hydroxy-7-methylthio-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 3.04 mmol, 1.0 g | O[C@@H]1C(NC2=C(C[C@@H]1C1=CC=C(C=C1)OC)C=C(C=C2)SC)=O | C18H19NO3S
reactant | m-chloroperoxybenzoic acid | 3.04 mmol, 0.615 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (cis)-1,3,4,5-tetrahydro-3-hydroxy-7-methylsulfinyl-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 600 mg | O[C@@H]1C(NC2=C(C[C@@H]1C1=CC=C(C=C1)OC)C=C(C=C2)S(=O)C)=O | C18H19NO4S
